US07985753B2
(6-Bromo-pyrazolo[1,5-a]pyrimidin-2-yl)-(2,6-dimethyl-8,9-dihydro-6H-thiazolo[4,5-f]isoquinolin-7-yl)-methanone
In close analogy to the procedure described in Example 1, 6-bromo-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid is reacted with 2,6-Dimethyl-6,7,8,9-tetrahydro-thiazolo[4,5-f]isoquinoline to provide the title compound in moderate yield.

reactant | 6-bromo-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid | BrC=1C=NC=2N(C1)N=C(C2)C(=O)O | C7H4BrN3O2
reactant | 2,6-Dimethyl-6,7,8,9-tetrahydro-thiazolo[4,5-f]isoquinoline | CC=1SC=2C(=C3CCNC(C3=CC2)C)N1 | C12H14N2S
product | (6-Bromo-pyrazolo[1,5-a]pyrimidin-2-yl)-(2,6-dimethyl-8,9-dihydro-6H-thiazolo[4,5-f]isoquinolin-7-yl)-methanone | BrC=1C=NC=2N(C1)N=C(C2)C(=O)N2C(C1=CC=C3C(=C1CC2)N=C(S3)C)C | C19H16BrN5OS
